US07906645B2
(4-tert-Butylmorpholin-2-yl)methanol
A mixture of 2-[(benzyloxy)methyl]-4-tert-butylmorpholine (268 mg) and 10% palladium on carbon (200 mg) in ethanol (10 mL) was evacuated and purged with hydrogen three times and the left under an atmosphere of hydrogen over the weekend at room temperature. The mixture was filtered through a short pad of celite and the cake was washed with ethanol (10 mL). To the filtrate was added 10% palladium on carbon (200 mg) and the mixture was evacuated and purged with hydrogen three times and the left under an atmosphere of hydrogen for 48 hours. The mixture was filtered through a short pad of celite and the cake was washed with ethanol. The filtrate was concentrated at reduced pressure to give the title compound as a colourless oil (180 mg).

reactant | 2-[(benzyloxy)methyl]-4-tert-butylmorpholine | 268 mg | C(C1=CC=CC=C1)OCC1CN(CCO1)C(C)(C)C | C16H25NO2
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (4-tert-Butylmorpholin-2-yl)methanol | 180 mg | C(C)(C)(C)N1CC(OCC1)CO | C9H19NO2
